US03993656
Preparation of 6-amino-5,7-dimethyl-1,8-naphthyridin-2(1H)-one
Ethyl 3-(2-amino-5-acetamido-4,6-dimethylpyrid-3-yl)-acrylate (2.48 g., 8.95 mmole) is heated under reflux in solution in 6N hydrochloric acid (24.8 ml.) for 6 days. The reaction mixture is filtered through a glass-fiber filter disc, the filtrate diluted slowly over a period of 15 minutes with ethanol (75 ml.) whereupon 1.043 g. (51.7%) of product in the form of the hydrochloride crystallizes from solution, m.p. 325° C. (dec.). A second crop raises the yield to 79%. Following recrystallization of the crude product from a mixture of dilute hydrochloric acid and isopropanol the purified product melts at 325° C. (dec.).

reactant | Ethyl 3-(2-amino-5-acetamido-4,6-dimethylpyrid-3-yl)-acrylate | 8.95 mmole, 2.48 g | NC1=NC(=C(C(=C1C=CC(=O)OCC)C)NC(C)=O)C | C14H19N3O3
solvent | hydrochloric acid | 6N, 24.8 ml | Cl | ClH
product | 6-amino-5,7-dimethyl-1,8-naphthyridin-2(1H)-one | NC=1C(=C2C=CC(NC2=NC1C)=O)C | C10H11N3O
